US06969730B2
(2R)-1-(3-butynyl)-2-methylpyrrolidine
(R)-2-methylpyrrolidine (L) tartrate (1.65 g, 7.00 mmol) and 325 mesh powdered K2CO3 (2.03 g, 14.7 mmol) in acetonitrile (60 mL) were heated at 50° C. in a sealed bottle for 24 hours. The mixture was allowed to cool to room temperature and was treated with 3-butynyl 4-methylbenzenesulfonate (1.24 mL, 7.0 mmol). The mixture was stirred for one hour at room temperature and then was heated at 50° C. for 24 hours. The mixture was allowed to cool to room temperature, filtered, and the filter cake washed with acetonitrile. The filtrate was diluted to a total volume of 70 mL with acetonitrile and used as a 0.1M solution in subsequent steps.

reactant | (R)-2-methylpyrrolidine (L) tartrate | 7.00 mmol, 1.65 g | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.C[C@H]1NCCC1
reactant | K2CO3 | 14.7 mmol, 2.03 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-butynyl 4-methylbenzenesulfonate | 7.0 mmol, 1.24 mL | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | (2R)-1-(3-butynyl)-2-methylpyrrolidine | C(CC#C)N1[C@@H](CCC1)C | C9H15N
